US08912217B1
To a 100 mL round-bottom flask equipped with a magnetic stir bar and addition funnel was charged 730 mg (0.769 mmol) imipramine pamoate, (2:1) salt (prepared as described in King, et al.) in 10.7 g toluene to form a suspension. A solution of 207.3 mg (0.769 mmol) octadecylamine in 12.5 g toluene was prepared and added dropwise to the above suspension over 1 hour. The suspension was stirred for an additional 3 hours and the solids collected by filtration through a medium fritted filter. The product was dried under vacuum to provide 600 mg (83%) of a white solid (2.5% water) which was characterized by DSC, FTIR (FIG. 63), PXRD (FIG. 64), 1H NMR (FIG. 65) and HPLC. The PXRD diffractogram indicated the isolated drug product was crystalline. The relative ratio of imipramine/pamoate was determined to be 1.2/1 by HPLC (and corroborated by 1H NMR). The relative ratio of stearylamine/pamoate was determined to be about 1/1 by 1H NMR. The filtrate from the above work-up was concentrated under reduced pressure and dried under vacuum to give 200 mg of a yellow oil which was characterized by FTIR and 1H NMR. The analyses were consistent with those obtained for imipramine free base described in U.S. Pat. No. 5,578,500. The DSC thermogram is provided in FIG. 62 wherein an endothermic phase change of at least 40 J/g is observed at a temperature above 70° C. and an endothermic phase change of at least 1 J/g is observed above 125° C.

reactant | imipramine pamoate | 0.769 mmol, 730 mg | CN(C)CCCN1C=2C=CC=CC2CCC3=C1C=CC=C3.C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O
solvent | toluene | 10.7 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12.5 g | C1(=CC=CC=C1)C | C7H8
product | octadecylamine | 0.769 mmol, 207.3 mg | C(CCCCCCCCCCCCCCCCC)N | C18H39N
